US08492582B2
N,N,N′-Trimethylethylenediamine (0.12 mL), cesium carbonate (0.35 g), tris(dibenzylideneacetone)dipalladium(0) (3.3 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (8.6 mg), and palladium(II) acetate (1.6 mg) were added to a toluene (3.0 mL) suspension of tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate (0.22 g), followed by heating to reflux under a nitrogen atmosphere for 4 hours and 10 minutes. The reaction mixture was cooled to room temperature, and then N,N,N′-trimethylethylenediamine (0.12 mL), cesium carbonate (0.35 g), tris(dibenzylideneacetone)dipalladium(0) (3.3 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (8.6 mg), and palladium(II) acetate (1.6 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 8 hours. The reaction mixture was cooled to room temperature, and then water and chloroform were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-93% chloroform/methanol] to obtain 0.072 g of tert-butyl 2-(2-(benzyloxy)-4-((2-(dimethylamino)ethyl)(methyl)amino)benzamido)-4-phenylbenzoate.

reactant | N,N,N′-Trimethylethylenediamine | 0.12 mL | CN(CCNC)C | C5H14N2
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 8.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate | 0.22 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)I | C31H28INO4
reactant | N,N,N′-trimethylethylenediamine | 0.12 mL | CN(CCNC)C | C5H14N2
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 8.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-(benzyloxy)-4-((2-(dimethylamino)ethyl)(methyl)amino)benzamido)-4-phenylbenzoate | 0.072 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N(C)CCN(C)C | C36H41N3O4
